data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(Br)c1.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(Br)c1"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(Br)c1", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(Br)c1.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(Br)c1", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(Br)c2)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(Br)c2)C(=N)C=C1", "products": "COc1cc(Br)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1"}, {"reactants": "COc1cc(Br)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1", "products": "COc1cc(Br)c2c(c1)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(Br)c2c(c1)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(Br)c2c(c1)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(Br)c2c(c1)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(Br)c2c(c1)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(Br)c2c(c1)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(Br)c2[nH]cc(-c3ccccc3)c2c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(Br)c(N(C)C(=O)C2=CCCC2)cc1C.[Pd]", "products": "COc1c[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)cc1C"}, {"reactants": "COc1c[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)cc1C", "products": "COc1cc2c(cc1C)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1cc2c(cc1C)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1cc2c(cc1C)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(F)c1OC.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1OC"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1OC", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1OC.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(F)c2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(F)c2OC)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(F)c1OC"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(F)c1OC", "products": "COc1cc2c(c(F)c1OC)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(F)c1OC)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(F)c1OC)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(F)c1OC)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(F)c1OC)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(F)c1OC)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(F)c1OC.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cc(F)ccc1F)C1C2CCC1C2", "products": "[O][C](c1cc(F)ccc1F)C1C2CCC1C2"}, {"reactants": "[O][C](c1cc(F)ccc1F)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cc(F)ccc1F"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cc(F)ccc1F", "products": "OC(=CC1C=CCC1)c1cc(F)ccc1F"}, {"reactants": "OC(=CC1C=CCC1)c1cc(F)ccc1F", "products": "O=C(CC1C=CCC1)c1cc(F)ccc1F"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)cc1F.[H+]", "products": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1F"}, {"reactants": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1F", "products": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1F.O"}, {"reactants": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1F", "products": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1F"}, {"reactants": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1F", "products": "CC1=C(c2ccc(C)c(F)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)c(F)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(C)c(F)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)c(F)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1F"}, {"reactants": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1F", "products": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1F"}, {"reactants": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1F", "products": "Cc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)cc1F.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)COC)c([Si](C)(C)C)c(C)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)C)c(C)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)C)c(C)c1=C", "products": "COC[Si](C)(C)c1cc2c(c(C)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
